US20010049385A1
5-[2-(3-(Trifluoromethoxy)phenoxy)benzyloxymethyl]-4,5,6,7-tetrahydro-1H-benzimidazole
A solution of a mixture of 5-[2-(3-(trifluoromethoxy)phenoxy)benzyloxymethyl]-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole and 5-[2-(3-(trifluoromethoxy)phenoxy)benzyloxymethyl]-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole (600 mg, 0.91 mmol) in a mixture of acetic acid (9 ml) and water (1 ml) was heated to 70° C. for 2 hours. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (60 g), using DCM/methanol/−25% aqueous ammonia as eluent, to give 251 mg of the title compound.

reactant | 5-[2-(3-(trifluoromethoxy)phenoxy)benzyloxymethyl]-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole | FC(OC=1C=C(OC2=C(COCC3CC4=C(N(C=N4)C(C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)CC3)C=CC=C2)C=CC1)(F)F | C41H35F3N2O3
reactant | 5-[2-(3-(trifluoromethoxy)phenoxy)benzyloxymethyl]-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole | 0.91 mmol, 600 mg | FC(OC=1C=C(OC2=C(COCC3CC4=C(N=CN4C(C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)CC3)C=CC=C2)C=CC1)(F)F | C41H35F3N2O3
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
solvent | water | 1 ml | O | H2O
product | 5-[2-(3-(Trifluoromethoxy)phenoxy)benzyloxymethyl]-4,5,6,7-tetrahydro-1H-benzimidazole | 251 mg | FC(OC=1C=C(OC2=C(COCC3CC4=C(NC=N4)CC3)C=CC=C2)C=CC1)(F)F | C22H21F3N2O3
